US08580783B2
4-(2-amino-[1,2,4]triazolo[1,5-c]quinazolin-5-ylmethyl)-benzene-1,2-diol [(I); m=0, X=phenyl, Z═CH2, W=3,4-hydroxyphenyl]
Operating as in Example 39, but employing 5-(3,4-dimethoxy-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine, prepared as described in Example 7, instead of 5-(3,5-dimethoxy-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine, the title compound was obtained in 37% yield.

reactant | 5-(3,4-dimethoxy-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | COC=1C=C(CC2=NC=3C=CC=CC3C=3N2N=C(N3)N)C=CC1OC | C18H17N5O2
reactant | 5-(3,5-dimethoxy-benzyl)-[1,2,4]triazolo[1,5-c]quinazolin-2-ylamine | COC=1C=C(CC2=NC=3C=CC=CC3C=3N2N=C(N3)N)C=C(C1)OC | C18H17N5O2
product | 4-(2-amino-[1,2,4]triazolo[1,5-c]quinazolin-5-ylmethyl)-benzene-1,2-diol | 37% yield | NC1=NN2C(=NC=3C=CC=CC3C2=N1)CC=1C=C(C(=CC1)O)O | C16H13N5O2
